US07987912B2
Synthesis of Furfuryl Acrylate
Furfuryl alcohol (5.3 mL, 1 eq.) was dissolved in THF (100 mL) in a dry, round bottomed flask and stirred with triethylamine (10.7 mL, 1.25 eq.). The solution was cooled to 0° C. and acryloyl chloride (5 mL, 1 eq.) was added dropwise. The mixture was stirred for 3 h at 20° C. The reaction was worked up by diluting with dichloromethane (50 mL) and filtered through a celite plug to remove the triethylammonium chloride, and the solvent was removed under vacuum. The residue was purified by silica column chromatography using tert-butylmethyl ether-hexane (1:7) (furfuryl acrylate Rf 0.51) to give an oil (7.9 g 84.5% yield). IR (cm−1): 1728 (C═O st), 3147, 3124 (═C—H st), 810, 748 (C—H δ, furan ring). 1H NMR (CDCl3, 300 MHz): δ 6.39 (dd, 1H, H-1A, J1A,1B=17.3 Hz, J1A,2=1.47 Hz), 6.10 (dd, 1H, H-1B J1B,2=10.41 Hz), 5.79 (dd, 1H, H-2), 5.10 (s, 2H, CH2) ppm. Furan ring: 6.40 (bd, 1H, H-3′, J3′,4′=3.2 Hz), 6.33 (dd, 1H, H-4′, J4′,5′=1.9 Hz), 7.39 (m, 1H, H-5′) ppm. 13C NMR (CDCl3, 75 MHz): δ 131.1, 128.0 (C-1/C-2), 165.6 (C-3), 58.0 (CH2) ppm. Furan ring: 149.4 (C-2′), 110.6, 110.5 (C-3′, C-4′), 143.2 (C-5′) ppm. CI-Mass Spectrometry. m/z: 152 (M+), 97 [(OCH2-fur)+], 81 (main peak) [(CH2-fur)+], 55 [(CH2CHCO)+]. HRMS: Theoretical molecular weight for C8H8O3 (M+) 152.047344, experimental molecular weight: 152.046924.

reactant | Furfuryl alcohol | 5.3 mL, 1 eq. | C(C1=CC=CO1)O | C5H6O2
reactant | triethylamine | 10.7 mL, 1.25 eq. | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 5 mL, 1 eq. | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Furfuryl Acrylate | 84.5% yield | C(C=C)(=O)OCC1=CC=CO1 | C8H8O3
